US04103086
Trichloroethyl pyruvate (3.7 g, 17 mmole) is heated to 65° and 1.1 ml (17 mmole) of bromine is added dropwise over 1 hr. A stream of carbon dioxide is passed through the reaction mixture during the addition to remove the HBr formed in the reaction. The mixture is cooled to room temperature, diluted with water and extracted with ethyl acetate. The extract is dried over MgSO4, evaporated and distilled in vacuum to give 1.8 g of trichloroethyl bromopyruvate, bp 74°-77° (0.01 mm).

reactant | Trichloroethyl pyruvate | 17 mmole, 3.7 g | C(C(=O)C)(=O)OCC(Cl)(Cl)Cl | C5H5Cl3O3
reactant | bromine | 17 mmole, 1.1 ml | BrBr | Br2
reactant | carbon dioxide | C(=O)=O | CO2
solvent | water | O | H2O
product | trichloroethyl bromopyruvate | 1.8 g | BrCC(C(=O)OCC(Cl)(Cl)Cl)=O | C5H4BrCl3O3
